US08865682B2
A mixture of methyl (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-2-oxoindoline-5-carboxylate (90 mg, 0.25 mmol), 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)morpholine hydrochloride (92 mg, 0.27 mol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (complex with CH2Cl2, 20 mg, 0.027 mmol) and 2M Na2CO3 (0.5 mL, 1.0 mmol) in 8 mL of DMF was heated in 85° C. bath under nitrogen for 90 minutes. The mixture was cooled to room temperature and poured into 100 mL of water. The precipitates were filtered, washed with water and dried to give the crude product, which was purified through silica gel column with 1-5% MeOH/CHCl3 to give methyl (3E)-3-{5,5-dimethyl-4-[4-(morpholin-4-ylmethyl)phenyl]furan-2(5H)-ylidene}-2-oxoindoline-5-carboxylate as yellow solid. Yield: 20 mg, 18%.

reactant | methyl (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-2-oxoindoline-5-carboxylate | 0.25 mmol, 90 mg | BrC1=C/C(/OC1(C)C)=C/1\C(NC2=CC=C(C=C12)C(=O)OC)=O | C16H14BrNO4
reactant | 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)morpholine hydrochloride | 0.27 mol, 92 mg | Cl.CC1(OB(OC1(C)C)C1=CC=C(CN2CCOCC2)C=C1)C
reactant | Na2CO3 | 1.0 mmol, 2M, 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.027 mmol, 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl (3E)-3-{5,5-dimethyl-4-[4-(morpholin-4-ylmethyl)phenyl]furan-2(5H)-ylidene}-2-oxoindoline-5-carboxylate | CC1(C(=C/C(/O1)=C/1\C(NC2=CC=C(C=C12)C(=O)OC)=O)C1=CC=C(C=C1)CN1CCOCC1)C | C27H28N2O5
